US09079866B2
5-(2′-Ethyl-3-fluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-ethylbromobenzene. MS (ESI): mass calcd. for C18H16FN3, 293.13; m/z found, 294.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.03 (d, J=1.3, 1H), 7.92 (m, 1H), 7.36 (d, J=3.9, 2H), 7.32-7.19 (m, 4H), 6.71 (s, 2H), 2.60 (q, J=7.5, 2H), 1.06 (t, J=7.5, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-ethylbromobenzene | C(C)C1=C(C=CC=C1)Br | C8H9Br
product | 5-(2′-Ethyl-3-fluorobiphenyl-4-yl)pyrazin-2-amine | C(C)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C18H16FN3
